US04587261
Preparation of N-(methoxycarbonyl)-N'-[2-(p-chlorophenylmethylene)-cyclohexylidene]-hydrazine
33.32 g (0.151 moles) of 2-(p-chlorophenylmethylene)-cyclohexan-1-one and 13.5 g (0.151 moles) of N-methoxycarbonyl hydrazine are dissolved in 230 ml of isopropanol. The reaction mixture is boiled for a few hours, then cooled, clarified with activated carbon, filtered, the filtrate is cooled and the separated crystals are filtered off. 41.2 g of the named compound are obtained. Yield: 93.2%. M.p.: 160.5°-162° C.

reactant | 2-(p-chlorophenylmethylene)-cyclohexan-1-one | 0.151 moles, 33.32 g | ClC1=CC=C(C=C1)C=C1C(CCCC1)=O | C13H13ClO
reactant | N-methoxycarbonyl hydrazine | 0.151 moles, 13.5 g | COC(=O)NN | C2H6N2O2
solvent | isopropanol | 230 ml | C(C)(C)O | C3H8O
product | N-(methoxycarbonyl)-N'-[2-(p-chlorophenylmethylene)-cyclohexylidene]-hydrazine | 41.2 g, Yield: 93.2% | COC(=O)NN=C1C(CCCC1)=CC1=CC=C(C=C1)Cl | C15H17ClN2O2
